US07923561B2
3,5-Difluoro-N-[2-((R)-indan-1-ylamino)-quinolin-5-yl]-benzamide
(R)-Indan-1-yl-(5-nitro-quinolin-2-yl)-amine (0.15 g, 0.545 mmol) was dissolved in 1.5 mL pyridine and 3,5-difluorobenzoylchloride (0.98 g, 0.554 mmol) was added. The reaction mixture was stirred at room temperature overnight. 1 N HCl was added until pH5. The mixture was extracted three times with ethyl acetate (50 mL each). The organic phases ware pooled, dried with sodium sulfate, filtered and evaporated. The crude product was recrystallized from isopropanol and diisopropylether. The title compound was obtained as a brown solid (44 mg, 19%), MS: m/e=416.3 (M+H+).

reactant | (R)-Indan-1-yl-(5-nitro-quinolin-2-yl)-amine | 0.545 mmol, 0.15 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C18H15N3O2
reactant | 3,5-difluorobenzoylchloride | 0.554 mmol, 0.98 g | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
reactant | HCl | 1 N | Cl | ClH
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 3,5-Difluoro-N-[2-((R)-indan-1-ylamino)-quinolin-5-yl]-benzamide | FC=1C=C(C(=O)NC2=C3C=CC(=NC3=CC=C2)N[C@@H]2CCC3=CC=CC=C23)C=C(C1)F | C25H19F2N3O
